US07572820B2
B. N-{4-Chloro-3-(trifluoromethyl)-2-[(trimethylsilyl)ethynyl]phenyl}-2,2-dimethylpropanamide
A triethylamine (2.2 mL) solution of N-[4-chloro-2-iodo-3-(trifluoromethyl)phenyl]-2,2-dimethylpropanamide (0.413 g, 1.02 mmol) was treated with TMS acetylene (0.158 mL, 1.12 mmol) followed by copper iodide (0.019 g, 0.102 mmol) and PdCl2(PPh3)2 (0.021 g, 0.031 mmol). The reaction vessel was purged with N2, sealed and heated to 50° C. for 14 h. TLC at this time showed excellent conversion to the desired product. The cooled mixture was filtered through a plug of celite and partitioned between EtOAc (10 mL) and H2O (10 mL). The organic portion was dried (Na2SO4), filtered, and concentrated. Column chromatography (SiO2, EtOAc/hexanes) afforded the title compound as a light brown solid: 1H NMR (CDCl3) δ 8.72 (bs, 1H), 8.64 (d, J=6.0 Hz, 1H), 7.41 (d, J=6.0 Hz, 1H), 1.34 (s, 9H), 0.29 (s, 9H).

reactant | N-[4-chloro-2-iodo-3-(trifluoromethyl)phenyl]-2,2-dimethylpropanamide | 1.02 mmol, 0.413 g | ClC1=C(C(=C(C=C1)NC(C(C)(C)C)=O)I)C(F)(F)F | C12H12ClF3INO
reactant | TMS acetylene | 1.12 mmol, 0.158 mL | [Si](C)(C)(C)C#C | C5H10Si
catalyst | copper iodide | 0.102 mmol, 0.019 g | [Cu](I)I
catalyst | PdCl2(PPh3)2 | 0.031 mmol, 0.021 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | triethylamine | 2.2 mL | C(C)N(CC)CC | C6H15N
product | N-{4-Chloro-3-(trifluoromethyl)-2-[(trimethylsilyl)ethynyl]phenyl}-2,2-dimethylpropanamide | ClC1=C(C(=C(C=C1)NC(C(C)(C)C)=O)C#C[Si](C)(C)C)C(F)(F)F | C17H21ClF3NOSi
